Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:3](=[O:4])=[C:5]([H:6])[C:7]([H:8])[H:9].[O:1]=[C:2],0.439975216999
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6]([H:7])[H:8],2.58590312574
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.626561028359999
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3],7.48653531666
[O:1]=[C:2]1[C:3][C:4]([H:5])([H:6])[O:7]1>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7],0.493245175489
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[O:8])[C:12]([C:9]([H:10])[H:11])([H:13])[H:14]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-3.3008481
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]#[C:5]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],3.8141215954300014
[C:5]([H:6])[O:7][H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.34453168201
[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.541269271519999
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.10757938699
[C:2]([C:3]=[O:4])([H:5])([H:7])[H:8].[O:1]([C:6])[H:9]>>[O:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9],-2.57965184648
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:5]=[C:6]=[O:7]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-0.13172223912
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.6269814282
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],3.3845192365900005
[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8].[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9],-0.965176369647
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.23471683431
[C:2][C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.65180118674
[H:6].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:7](=[O:8])[H:9]>>[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7](=[O:8])[H:9],-2.51967415825
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10][H:11],2.4849610074400004
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:11]([H:12])([H:13])[H:14],3.71036473892
[C:9]([H:10])[H:11].[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7][H:8]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.812145385499999
[C:3]([H:4])#[C:5][C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.97725621796
[H:1][O:2]/[C:3]=[C:4](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.9755481123000003
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.14033728422
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.535511330479999
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.49506824447
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]1[C:2][C:3]1[H:4],3.4889743664599995
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2][H:3],6.60538544859
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[O:2],3.63984215031
